US06613775B1
Synthesis of [8-(2,6-Dimethylbenzylamino)-3-meihylimidazo[1,2-a]pyridin-2-yl]methyl Ethyl Carbonate
8-(2,6-dimethylbenzylamino)-2-hydroxymethyl-3-methylimidazo[1,2-a]pyridine (0.4 g, 1.3 mmol) and ethyl chloroformate (0.13 ml, 1.3 mmol) were solved in methylene chloride (20 ml) and were refluxed for 3 h. An additional amount of ethyl chloroformate (0.13 ml, 1.3 mmol) was added and the reaction mixture was refuxed 20 h. A sodium bicarbonate solution was added, the organic layer was separated dried (Na2SO4) and evaporated under reduced pressure. Purification of the residue by column chromatography on silica gel using diethyl ether as eluent and crystallization from diethyl ether: petroleum ether (1:2) gave 0.11 g (23%) of the title compound.

reactant | 8-(2,6-dimethylbenzylamino)-2-hydroxymethyl-3-methylimidazo[1,2-a]pyridine | 1.3 mmol, 0.4 g | CC1=C(CNC=2C=3N(C=CC2)C(=C(N3)CO)C)C(=CC=C1)C | C18H21N3O
reactant | ethyl chloroformate | 1.3 mmol, 0.13 ml | ClC(=O)OCC | C3H5ClO2
reactant | ethyl chloroformate | 1.3 mmol, 0.13 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | [8-(2,6-Dimethylbenzylamino)-3-meihylimidazo[1,2-a]pyridin-2-yl]methyl Ethyl Carbonate | 0.11 g, 23% | C(OCC=1N=C2N(C=CC=C2NCC2=C(C=CC=C2C)C)C1C)(OCC)=O | C21H25N3O3
